Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Chest pressure
 
Major Surgical or Invasive Procedure:
___
Coronary artery bypass grafting x 1 with the left internal 
mammary artery to the left anterior descending artery.

 
History of Present Illness:
Mr. ___ is a ___ yo who has not had any medical care in over 
___ years.  He began experiencing chest discomfort about 5 days 
prior to admission. He describes his chest pain as indigestion 
which occured after eating with
associated lightheadedness, dizziness and diaphoresis. He 
treated his symptoms as indigestion until he began experiencing 
numbness and heaviness of his L arm.  In the ED he had elevated 
troponins and was positive for NSTEMI.  He underwent cardiac 
cath which showed 70-80% ___ LAD lesion which was felt to not 
be amenable to PCI and he was transfered for CABG.  

Cardiac Catheterization: ___     ___
___ LAD, EF 55% 
Other diagnostics:CXR at ___ ___
Fractures of the lateral sixth thru eighth ribs on the Right 
with
underlying pleural thickening likely related to hemorrhage

 
Past Medical History:
Polio
L femur fracture ___
bicycle accident ___ w/handlebars into ___ medical
attention
Past Surgical History
none

 
Social History:
___
Family History:
None
 
Physical Exam:
Pulse:84 Resp:16  O2 sat:96% RA
B/P  Right:127/96    Left:
Height:     Weight:

General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs coarse bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+
[x]
Extremities: Warm [x], well-perfused [x]  Edema [] none_____
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
DP           Right: 2+  Left:2+
___           Right:2+   Left:2+
Radial       Right: 2+  Left:2+

Carotid Bruit        Right:none    Left:none

 
Pertinent Results:
___ 05:03AM BLOOD WBC-8.7 RBC-3.25* Hgb-10.7* Hct-31.3* 
MCV-96 MCH-32.8* MCHC-34.0 RDW-12.7 Plt ___
___ 04:25AM BLOOD WBC-10.8 RBC-3.48* Hgb-11.3* Hct-33.4* 
MCV-96 MCH-32.5* MCHC-33.9 RDW-12.8 Plt ___
___ 02:02AM BLOOD WBC-13.1* RBC-3.80* Hgb-12.7* Hct-36.4* 
MCV-96 MCH-33.4* MCHC-34.9 RDW-12.9 Plt ___
___ 05:03AM BLOOD Glucose-81 UreaN-18 Creat-0.6 Na-137 
K-4.2 Cl-100 HCO3-27 AnGap-14
___ 04:25AM BLOOD Glucose-112* UreaN-19 Creat-0.8 Na-136 
K-4.1 Cl-101 HCO3-29 AnGap-10
___ 02:02AM BLOOD Glucose-106* UreaN-15 Creat-0.7 Na-133 
K-4.6 Cl-105 HCO3-24 AnGap-9
___ 02:45PM BLOOD UreaN-17 Creat-0.8 Na-135 K-4.6 Cl-106 
HCO3-25 AnGap-9
___ 07:15AM BLOOD WBC-7.1 RBC-3.54* Hgb-11.7* Hct-33.8* 
MCV-96 MCH-33.1* MCHC-34.7 RDW-12.6 Plt ___
___ 07:15AM BLOOD Glucose-106* UreaN-21* Creat-0.7 Na-135 
K-4.2 Cl-101 HCO3-26 AnGap-12

TTE ___
Pre-CPB:
No thrombus is seen in the left atrial appendage. A patent 
foramen ovale is present. A left-to-right shunt across the 
interatrial septum is seen at rest. Left ventricular wall 
thicknesses are normal. Overall left ventricular systolic 
function is normal (LVEF>55%). Right ventricular chamber size 
and free wall motion are normal. The ascending aorta is mildly 
dilated. There are simple atheroma in the aortic arch. No 
thoracic aortic dissection is seen. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis. There are filamentous strands on the aortic 
leaflets consistent with Lambl's excresences (normal variant). 
The mitral valve leaflets are structurally normal. Mild (1+) 
mitral regurgitation is seen. 

___ 07:15AM BLOOD WBC-7.1 RBC-3.54* Hgb-11.7* Hct-33.8* 
MCV-96 MCH-33.1* MCHC-34.7 RDW-12.6 Plt ___
___ 07:15AM BLOOD Glucose-106* UreaN-21* Creat-0.7 Na-135 
K-4.2 Cl-101 HCO3-26 AnGap-12
 
Brief Hospital Course:
The patient was admitted to the hospital and brought to the 
operating room on ___ where the patient underwent coronary 
artery bypass grafting x 1 with the left
internal mammary artery to the left anterior descending artery. 
Overall the patient tolerated the procedure well and 
post-operatively was transferred to the CVICU in stable 
condition for recovery and invasive monitoring. POD 1 found the 
patient extubated, alert and oriented and breathing comfortably. 
The patient was neurologically intact and hemodynamically stable 
on no inotropic or vasopressor support. Beta blocker was 
initiated and the patient was gently diuresed toward the 
preoperative weight. His beta blockers were titrated up for 
tachycardia. The patient was transferred to the telemetry floor 
for further recovery. Chest tubes and pacing wires were 
discontinued without complication. The patient was evaluated by 
the physical therapy service for assistance with strength and 
mobility. By the time of discharge on POD 4 the patient was 
ambulating freely, the wound was healing and pain was controlled 
with oral analgesics.  The patient was discharged home with 
visiting nurse services in good condition with appropriate 
follow up instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
This patient is not taking any preadmission medications

 
Discharge Medications:
1. Simvastatin 40 mg PO DAILY 
2. TraMADOL (Ultram) 50 mg PO Q4H:PRN pain 
3. Pantoprazole 40 mg PO Q24H 
4. Aspirin EC 81 mg PO DAILY 
5. Metoprolol Tartrate 75 mg PO TID 
6. Potassium Chloride 20 mEq PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Coronary artery disease
Polio
L femur fracture ___

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with Ultram
Incisions: 
Sternal - healing well, no erythema or drainage 
Trace Edema bilaterally
 

 

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___

**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___